US09340556B2
A solution of pyrrolidine (0.167 mL, 2.017 mmol) and 1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydrocinnoline-3-carbaldehyde (0.87 g, 1.833 mmol) in 1,2-dichloroethane (DCE) (19 mL) and 2 drops of acetic acid was treated with sodium triacetoxyborohydride (0.583 g, 2.75 mmol). The reaction mixture was stirred for 1.5 h and then concentrated. The residue was purified by automatic silica gel column chromatography (Combiflash RF), eluting with [dichloromethane/methanol/ammonium hydroxide (80:20:2)]/dichloromethane (0-60%) to afford 1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-3-(pyrrolidin-1-ylmethyl)cinnolin-4(1H)-one (750 mg, 1.416 mmol, 77% yield) as a light yellow gummy solid. LCMS: (M+H)+: 530.3

reactant | pyrrolidine | 2.017 mmol, 0.167 mL | N1CCCC1 | C4H9N
reactant | 1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydrocinnoline-3-carbaldehyde | 1.833 mmol, 0.87 g | C(C)N1N=C(C(C2=CC(=C(C=C12)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)=O)C=O | C27H26N2O6
reactant | sodium triacetoxyborohydride | 2.75 mmol, 0.583 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 19 mL | ClCCCl | C2H4Cl2
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
product | 1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-3-(pyrrolidin-1-ylmethyl)cinnolin-4(1H)-one | 1.416 mmol, 750 mg, 77% yield | C(C)N1N=C(C(C2=CC(=C(C=C12)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)=O)CN1CCCC1 | C31H35N3O5
